US09371320B2
E) 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate
To a solution of 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one (187 mg) and pyridine (0.243 mL) in acetonitrile (25 mL) was added trifluoromethanesulfonic anhydride (0.203 mL), and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with 0.1N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (268 mg).

reactant | 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1,2-dihydro-3H-pyrazolo[4,3-c]pyridin-3-one | 187 mg | COC1=NC=CC2=C1C(NN2C2COCCC2)=O | C12H15N3O3
reactant | pyridine | 0.243 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.203 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-methoxy-1-(tetrahydro-2H-pyran-3-yl)-1H-pyrazolo[4,3-c]pyridin-3-yl trifluoromethanesulfonate | 268 mg | FC(S(=O)(=O)OC1=NN(C2=C1C(=NC=C2)OC)C2COCCC2)(F)F | C13H14F3N3O5S
